US06828317B2
I. 3-[4-(Methoxyimino-methyl)-phenyl]-acrylic acid
Methoxylamine hydrochloride (0.996 g, 0.0119 mol) is added to a solution of formylcinnamic acid (2 g, 0.0114 mol) in pyridine (20 ml) and is stirred for 2 hours. The reaction mixture is evaporated under vacuum and the residue is diluted with 2N aqueous HCl. The resulting precipitate is filtered and dried under vacuum (2.00 g, 85%).

reactant | Methoxylamine hydrochloride | 0.0119 mol, 0.996 g | Cl.O(C)N
reactant | formylcinnamic acid | 0.0114 mol, 2 g | C(=O)C(C(=O)O)=CC1=CC=CC=C1 | C10H8O3
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3-[4-(Methoxyimino-methyl)-phenyl]-acrylic acid | CON=CC1=CC=C(C=C1)C=CC(=O)O | C11H11NO3
